US06740712B2
1-(3-Bromo-5-trifluoromethyl-phenyl)-piperazine
A solution of 1-bromo-3-fluoro-5-(trifluoromethyl)-benzene (100 g, 0.41 moles), piperazine (194.9 g, 2.26 moles) in DMSO (800 ml) was heated at 100° C. for 5 hours, cooled at room temperature and stirred overnight. The mixture was poured into water and the yellow solid which separeted was filtered. The solid was suspended in a 5% THF solution in water (300 ml) water/THF, stirred for 1 hour and filtered again.

reactant | 1-bromo-3-fluoro-5-(trifluoromethyl)-benzene | 0.41 moles, 100 g | BrC1=CC(=CC(=C1)C(F)(F)F)F | C7H3BrF4
reactant | piperazine | 2.26 moles, 194.9 g | N1CCNCC1 | C4H10N2
reactant | water | O | H2O
solvent | DMSO | 800 ml | CS(=O)C | C2H6OS
product | 1-(3-Bromo-5-trifluoromethyl-phenyl)-piperazine | BrC=1C=C(C=C(C1)C(F)(F)F)N1CCNCC1 | C11H12BrF3N2
